US07335658B2
6-[4-(2-ETHYLBUTYRYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 2-ethylbutyryl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (71% yield). 1H NMR (300 MHz, CDCl3) δ 8.07, 8.00, 7.00, 3.86-3.90, 3.76, 3.68, 3.57, 2.57, 1.70, 1.50-1.55, 0.90, 0.45, 0.10. MS (ES+) m/z 374 (M+1).

reactant | 2-ethylbutyryl chloride | C(C)C(C(=O)Cl)CC | C6H11ClO
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2-ETHYLBUTYRYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C(CC)CC)=O | C20H31N5O2
